US07842685B2
DMF (27.8 μL, 0.358 mmol) was added to a solution of 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-6-carboxylic acid (198.6 mg, 0.716 mmol) and oxalyl chloride (66 μL, 0.757 mmol) in DCM (7.0 mL), and the resulting mixture was stirred at 25° C. for 4 h. The reaction mixture was then concentrated in vacuo and 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione (175 mg, 0.720 mmol) was added. The resulting mixture was taken up in toluene (7.0 mL) and stirred at 25° C. for 5 min then at 100° C. for 1.5 h. (±)-10-camphorsulfonic acid (184 mg, 0.792 mmol) was then added, and the resulting mixture was heated at 100° C. for 1.5 h. The reaction mixture was subsequently cooled to 25° C. and purified by column chromatography (silica gel, 0-10% MeOH/DCM) to provide crude product, which was taken up in DCM (100 mL) and sequentially washed with sat. aq. NaHCO3 and brine. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo to provide 5-(1-phenylcyclopropyl)-2-(1,2,3,4-tetrahydroisoquinolin-6-yl)thiazolo[5,4-b]pyridine as a light yellow solid. MS (ESI) m/z: Calculated: 383.1; Observed: 384.1 (M++1).

reactant | DMF | 0.358 mmol, 27.8 μL | CN(C)C=O | C3H7NO
reactant | 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-6-carboxylic acid | 0.716 mmol, 198.6 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)C(=O)O | C15H19NO4
reactant | oxalyl chloride | 0.757 mmol, 66 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione | 0.720 mmol, 175 mg | NC=1C(NC(=CC1)C1(CC1)C1=CC=CC=C1)=S | C14H14N2S
reactant | (±)-10-camphorsulfonic acid | 0.792 mmol, 184 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | DCM | 7.0 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 7.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-phenylcyclopropyl)-2-(1,2,3,4-tetrahydroisoquinolin-6-yl)thiazolo[5,4-b]pyridine | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1CCNCC1=CC2 | C24H21N3S
